US07825264B2
0.615 ml (5.18 mmol) of 4-chlorobutyryl chloride (95%) was slowly added dropwise to a solution of 1.5 g (4.7 mmol) of 2-amino-2-(4-fluorophenyl)-1-quinolin-8-ylethanol hydrochloride and 1.96 ml (14.1 mmol) of triethylamine in 15 ml of DMF cooled to −8° C. After stirring at −8 to −10° C. for 1 h, 2.25 g (56.3 mmol) of sodium hydroxide pellets and 156 mg (0.94 mmol) of potassium iodide were added, and the mixture was stirred at room temperature for 3 h. The mixture was poured into an aqueous sodium dihydrogen phosphate solution (80 g/l). Extraction twice with diisopropyl ether was followed by drying over magnesium sulfate. The residue after concentration in vacuo was purified by chromatography with petroleum benzene/ethyl acetate 50:50, then 30:70 to 0:100. 845 mg of 1-[1-(4-fluorophenyl)-2-hydroxy-2-quinolin-8-ylethyl]pyrrolidin-2-one (diastereoisomer A) (yield: 51%) and 127 mg of 1-[1-(4-fluorophenyl)-2-hydroxy-2-quinolin-8-ylethyl]pyrrolidin-2-one (diastereomer B) (yield: 8%) were obtained.

reactant | 4-chlorobutyryl chloride | 5.18 mmol, 0.615 ml | ClCCCC(=O)Cl | C4H6Cl2O
reactant | 2-amino-2-(4-fluorophenyl)-1-quinolin-8-ylethanol hydrochloride | 4.7 mmol, 1.5 g | Cl.NC(C(O)C=1C=CC=C2C=CC=NC12)C1=CC=C(C=C1)F
reactant | triethylamine | 14.1 mmol, 1.96 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 56.3 mmol, 2.25 g | [OH-].[Na+]
reactant | potassium iodide | 0.94 mmol, 156 mg | [I-].[K+]
reactant | sodium dihydrogen phosphate | P(=O)(O)(O)[O-].[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1-[1-(4-fluorophenyl)-2-hydroxy-2-quinolin-8-ylethyl]pyrrolidin-2-one | 127 mg, yield: 8% | FC1=CC=C(C=C1)C(C(C=1C=CC=C2C=CC=NC12)O)N1C(CCC1)=O | C21H19FN2O2
